US07338959B2
(4-Methoxy-phenyl)-(1-methyl-5-{methyl-[2-(4-sulfamoylmethyl-phenylamino)-pyrimidin-4-yl]-amino}-1H-benzoimidazol-2-yl)-carbamic acid tert-butyl ester
The title compound was prepared following the procedure of example 78 using {5-[(2-Chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-(4-methoxy-phenyl)-carbamic acid tert-butyl ester (100 mg, 0.20 mmol) and (4-amino-phenyl)-methanesulfonamide (37 mg, 0.20 mmol) to give the desired product as a white solid. 1H NMR (300 MHz, d6-DMSO) δ 9.20 (s, 1H), 7.81 (d, J=6.0 Hz, 1H), 7.65-7.73 (m, 3H), 7.54 (d, J=1.8 Hz, 1H), 7.34 (d, J=8.7 Hz, 2H), 7.24 (dd, J=8.4 and 1.8 Hz, 1H), 7.16 (d, J=8.4 Hz, 2H), 6.97 (d, J=9.0 Hz, 2H), 6.75 (s, 2H), 5.69 (d, J=6.0 Hz, 1H), 4.14 (s, 2H), 3.78 (s, 3H), 3.74 (s, 3H), 3.46 (s, 3H), 1.41 (s, 9H). MS (ESI) m/z=645 [M+H]+.

reactant | {5-[(2-Chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-(4-methoxy-phenyl)-carbamic acid tert-butyl ester | 0.20 mmol, 100 mg | C(C)(C)(C)OC(N(C1=CC=C(C=C1)OC)C1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl)=O | C25H27ClN6O3
reactant | (4-amino-phenyl)-methanesulfonamide | 0.20 mmol, 37 mg | NC1=CC=C(C=C1)CS(=O)(=O)N | C7H10N2O2S
product | (4-Methoxy-phenyl)-(1-methyl-5-{methyl-[2-(4-sulfamoylmethyl-phenylamino)-pyrimidin-4-yl]-amino}-1H-benzoimidazol-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1=NC2=C(N1C)C=CC(=C2)N(C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(N)(=O)=O)C)C2=CC=C(C=C2)OC)=O | C32H36N8O5S
